US04638078
(a) Preparation of Ethyl 2-(o-Chlorobenzyl)Cyanoacetate
Into a 3-liter, three-necked flask equipped with a mechanical stirrer, reflux condenser, addition funnel and nitrogen inlet is placed a solution of 35.64 g (1.55 moles) of sodium metal in 1050 mm of absolute 2B ethanol. The solution is stirred under nitrogen and cooled to 0° C. in an ice bath and 763.56 g (6.75 moles) of ethyl cyanoacetate is added dropwise over a period of 15 minutes. To this white suspension is added 241.56 g (1.5 moles) to o-chlorobenzyl chloride dropwise over 1 hour. After the addition is complete, the ice bath is removed and the mixture is slowly heated under nitrogen to reflux and held there for 3 hours. The resulting pink-colored mixture is allowed to cool under nitrogen overnight at room temperature. About 1 liter of ethanol is distilled from the reaction mixture and 1.5 liters of water are added. The organic layer is taken up in three 400-ml portions of methylene chloride, and the solutions are combined and washed once with 150 ml of water. The methylene chloride solution is dried over anhydrous magnesium sulfate, filtered and evaporated on a rotary evaporator. The residual liquid is distilled under reduced pressure through an insulated 12-inch Vigreux column. A forerun of ethyl cyanoacetate (boiling point 55° C.-60° C./0.3 mm Hg) comes over first followed by pure ethyl 2-(o-chlorobenzyl)cyanoacetate. The infrared, 'H and 13C nuclear magnetic resonance are used to establish the structure. The yield is 68 percent of product having a boiling point of 130° C.-135° C./0.3 mm Hg.

reactant | sodium | 1.55 moles, 35.64 g | [Na] | Na
reactant | ethyl cyanoacetate | 6.75 moles, 763.56 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | o-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-(o-Chlorobenzyl)Cyanoacetate | yield is 68 percent | ClC1=C(CC(C(=O)OCC)C#N)C=CC=C1 | C12H12ClNO2
